US06476075B1
A mixture containing N-(3-bromophenyl)-N-[2-[[(1,1-dimethylethyl) dimethylsilyl]oxy]-3,3,3-trifluoropropyl]-3-(1,1,2,2-tetrafluoroethoxy)benzenemethanamine (75 mg, 0.124 mmol), cesium carbonate (57.5 mg, 0.176 mmol), 4-methoxyaniline (18.6 mg, 0.151 mmol) tris(dibenzylideneacetone) dipalladium(0) (4.6 mg, 0.005 mmol), R-(+)-2,2′-bis(diphenylphosphino)- 1,1′-binaphthyl (4.7 mg, 0.0075 mmol) and toluene (2.5 mL) was heated to 95° C. in a sealed vial for 48 h. Tetrabutylammonium fluoride (1 M, THF, 0.372 mL, 0.372 mmol) was added, and the reaction was stirred at 23° C. for 1.5 h. The reaction mixture was filtered through celite, and the solvent was evaporated. The residue was purified by silica gel chromatography eluting with 20% ethyl acetate in hexane to give 49 mg (73%) of the desired 3-[[3-[(4-methoxyphenyl)amino]phenyl]-[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol product as an orange oil. HRMS calcd for C25H23F7N2O3: 532.1597, found: 532.1592 [M]+. 1H NMR (CDCl3) δ3.48-3.57 (m, 1H), 3.77 (s, 3H), 3.83 (dd, 1H), 4.33 (m, 1H), 4.59 (s, 2H), 5.87 (tt, 1H), 6.27 (m, 1H), 6.33 (bd, 1H), 6.86 (dd, 4H), 7.02-7.12 (m, 4H), 7.31 (t, 1H), 7.41 (m, 1H), 7.60 (m, 1H). 19F NMR (CDCl3) δ−137.201 (d, 2F), −88.515 (s, 2F), −79.120 (s, 3F).

reactant | N-(3-bromophenyl)-N-[2-[[(1,1-dimethylethyl) dimethylsilyl]oxy]-3,3,3-trifluoropropyl]-3-(1,1,2,2-tetrafluoroethoxy)benzenemethanamine | 0.124 mmol, 75 mg | BrC=1C=C(C=CC1)N(CC1=CC(=CC=C1)OC(C(F)F)(F)F)CC(C(F)(F)F)O[Si](C)(C)C(C)(C)C | C24H29BrF7NO2Si
reactant | cesium carbonate | 0.176 mmol, 57.5 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-methoxyaniline | 0.151 mmol, 18.6 mg | COC1=CC=C(N)C=C1 | C7H9NO
reactant | Tetrabutylammonium fluoride | 0.372 mmol, 1 M, 0.372 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[[3-[(4-methoxyphenyl)amino]phenyl]-[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol | 49 mg, 73% | COC1=CC=C(C=C1)NC=1C=C(C=CC1)N(CC(C(F)(F)F)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C25H23F7N2O3
